US06235738B1
A mixture of ethyl 2-methoxy-phenylacetic acid ethyl ester (11 g), ethyl formate (8.2 ml) and sodium (1.5 g) was added drop by drop with ethanol (5 ml) at 0° C., and the resulting mixture was stirred for 2 days at room temperature. Water was added, the organic layer was separated, the aqueous phase was washed with diethyl ether and extracted three times with ethyl acetate. The combined extracts were washed with water, dried and evaporated, to give 2 g of ethyl 2-(2-methoxy-phenyl)-3-oxo-propionate. The compound described above (2 g) was dissolved in water (50 ml), added with sodium carbonate (0.95 g), and the resulting mixture was added drop by drop with a solution of benzydamine (1.1 g) in water. The mixture was then heated under stirring for 10 hours at 60° C., acidified and extracted 3 times with methylene chloride. The combined extracts were washed with an 8% sodium bicarbonate aqueous solution, with water, dried and evaporated. The solid residue was crystallized from diethyl ether, to give the title product as a white solid (0.4 g).

reactant | ethyl 2-methoxy-phenylacetic acid ethyl ester | 11 g | C(C)OC(C(C1=C(C=CC=C1)OC)CC)=O | C13H18O3
reactant | ethyl formate | 8.2 ml | C(=O)OCC | C3H6O2
reactant | sodium | 1.5 g | [Na] | Na
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | ethyl 2-(2-methoxy-phenyl)-3-oxo-propionate | 2 g | COC1=C(C=CC=C1)C(C(=O)OCC)C=O | C12H14O4
